US07666879B2
N-[4-Dimethylaminomethyl-5-(1-methyl-cyclopropyl)-thiazol-2-yl]-2-[2-fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetamide
Combine 2-(4-bromo-2-fluoro-phenyl)-N-[4-dimethylaminomethyl-5-(1-methyl-cyclopropyl)-thiazol-2-yl]-acetamide (0.45 g, 1.06 mmol), 7-pyridin-4-yl-imidazo[1,2-a]pyridine (0.206 g, 1 equiv.), potassium acetate (0.52 g, 5 equiv.), tetrabutylammonium bromide (0.34 g, 1 equiv.), tris(2,4-di-t-butylphenyl)phosphite (0.034 g, 5 mol %) and NMP (10 mL). De-gas with nitrogen then add palladium (II) acetate (0.012 g, 5 mol %) and place under nitrogen. Heat at 120° C. for 24 hours then let stir at room temperature for an additional day. Dilute with ethyl acetate then wash with water, 1 N NaOH (aq), and aqueous saturated sodium chloride. Dry organics over MgSO4, then filter and concentrate. Purify by reverse phase C18 column HPLC employing a gradient of 5 to 65% to 100% acetonitrile versus 0.03% aqueous HCl then freebase by extraction with ethyl acetate versus 1 N NaOH (aq). Dry the organics over MgSO4, then filter, and concentrate to give product (118 mg tan solid, 21%). MS (ES), m/z 541 (M+1).

reactant | 2-(4-bromo-2-fluoro-phenyl)-N-[4-dimethylaminomethyl-5-(1-methyl-cyclopropyl)-thiazol-2-yl]-acetamide | 1.06 mmol, 0.45 g | BrC1=CC(=C(C=C1)CC(=O)NC=1SC(=C(N1)CN(C)C)C1(CC1)C)F | C18H21BrFN3OS
reactant | 7-pyridin-4-yl-imidazo[1,2-a]pyridine | 0.206 g, 1 equiv. | N1=CC=C(C=C1)C1=CC=2N(C=C1)C=CN2 | C12H9N3
reactant | potassium acetate | 0.52 g, 5 equiv. | C(C)(=O)[O-].[K+]
reactant | tris(2,4-di-t-butylphenyl)phosphite | 0.034 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)OP(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C | C42H63O3P
catalyst | tetrabutylammonium bromide | 0.34 g, 1 equiv. | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | N-[4-Dimethylaminomethyl-5-(1-methyl-cyclopropyl)-thiazol-2-yl]-2-[2-fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetamide | 118 mg | CN(C)CC=1N=C(SC1C1(CC1)C)NC(CC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=NC=C2)F)=O | C30H29FN6OS
